US04000299
280 g (2 mols) of powdered potassium carbonate were suspended in 2 l of methyl ethyl ketone. 409 g (2 mols) of 4' -chlorohydroxybiphenyl were added and the mixture was heated to the boil. Thereafter 269 g (2 mols) of α-chloropinacolone were added dropwise over the course of 1 hour and the mixture was heated for 15 hours under reflux. After cooling, the solid residue was filtered off, washed and recrystallized from ligroin. 513 g (79% of theory) of 1-[4-(4-chlorophenyl)phenoxy]-3,3-dimethylbutan-2-one of melting point 90° C were obtained.

reactant | potassium carbonate | 2 mols, 280 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4' -chlorohydroxybiphenyl | 2 mols, 409 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)O | C12H9ClO
reactant | α-chloropinacolone | 2 mols, 269 g | CC(C)(C)C(=O)CCl | C6H11ClO
solvent | methyl ethyl ketone | 2 l | C(C)C(=O)C | C4H8O
product | 1-[4-(4-chlorophenyl)phenoxy]-3,3-dimethylbutan-2-one | 513 g, 79% | ClC1=CC=C(C=C1)C1=CC=C(OCC(C(C)(C)C)=O)C=C1 | C18H19ClO2
